US07842694B2
N-(1-Ethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide
10% Palladium on carbon (1.9 g, 50% wet) was added under argon to N-(1-ethyl-1H-pyrazol-3-yl)-3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(phenylmethyl)oxy]benzamide (19.1 g, 46.7 mmol) in dry THF (100 mL) and ethanol (100 mL). The reaction mixture was degassed, placed under a hydrogen balloon and stirred for 16 hours. The mixture was filtered through diatomaceous earth and the filtrate was evaporated to give a brown oil. The residue was purified by column chromatography on silica, eluting with 40-65% ethyl acetate in hexanes, to give the desired product as a clear oil which crystallised on standing (11.35 g).

reactant | N-(1-ethyl-1H-pyrazol-3-yl)-3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(phenylmethyl)oxy]benzamide | 46.7 mmol, 19.1 g | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)O[C@H](COC)C)=O | C23H27N3O4
catalyst | Palladium on carbon | 1.9 g | [Pd] | Pd
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-(1-Ethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)O[C@H](COC)C)O)=O | C16H21N3O4
